US09376442B2
4-[5-Acetyl-2-(cyclopropylmethoxy)phenyl]-6-methyl-N-(piperidin-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride
tert-Butyl 4-[({4-[2-(cyclopropylmethoxy)-5-(2-methyl-1,3-dioxolan-2-yl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidin-7-yl}carbonyl)amino]piperidine-1-carboxylate from example D.e55 (1.77 g; 2.99 mmol) is dissolved in dry acetone (30 mL). After addition of 4M HCl in dioxane (3 mL) the stirred mixture is gently refluxed until the starting material is consumed according to LC-MS. At ambient temperature the product is precipitated by addition of tert.-butyl methyl ether, isolated by suction filtration, washed with several portions of tert.-butyl methyl ether and dried in high vacuo at 40° C. to yield 1.40 g of the title compound as pale yellow solid.

reactant | tert-Butyl 4-[({4-[2-(cyclopropylmethoxy)-5-(2-methyl-1,3-dioxolan-2-yl)phenyl]-6-methyl-5H-pyrrolo[3,2-d]pyrimidin-7-yl}carbonyl)amino]piperidine-1-carboxylate | C1(CC1)COC1=C(C=C(C=C1)C1(OCCO1)C)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C | C32H41N5O6
reactant | HCl | 4M | Cl | ClH
solvent | acetone | 30 mL | CC(=O)C | C3H6O
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 4-[5-Acetyl-2-(cyclopropylmethoxy)phenyl]-6-methyl-N-(piperidin-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | 1.40 g | Cl.C(C)(=O)C=1C=CC(=C(C1)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)NC2CCNCC2)OCC2CC2 | InChI=1S/C25H29N5O3.ClH/c1-14-21(25(32)30-18-7-9-26-10-8-18)23-24(29-14)22(27-13-28-23)19-11-17(15(2)31)5-6-20(19)33-12-16-3-4-16;/h5-6,11,13,16,18,26,29H,3-4,7-10,12H2,1-2H3,(H,30,32);1H
